US05147866
i) (3S,4R)-6-Ethyl-4-amino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (+)-mandelate
(+)-Mandelic acid (0.57 kg) and trans-6-ethyl-4-amino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol** (0.75kg) were dissolved in warm 2-propanol (18 L). The solution was concentrated to 12 L and crystallised to give the title compound (0.523 kg).

reactant | (+)-Mandelic acid | 0.57 kg | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | trans-6-ethyl-4-amino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | C(C)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N)C1 | C13H19NO2
solvent | 2-propanol | 18 L | CC(C)O | C3H8O
product | (3S,4R)-6-Ethyl-4-amino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (+)-mandelate | 0.523 kg | C(C(O)C1=CC=CC=C1)(=O)O[C@@H]1C(OC2=C([C@H]1N)C=C(C=C2)CC)(C)C | C21H25NO4
